US06057369
To a suspension of 60% NaH (0.23 g, 5.84 mmol) in anhydrous DMF (15 mL) is added a solution of methyl (3,4-dimethoxyphenylsulfonyl)acetate in 20 mL of DMF (1.6 g, 5.84 mmol) dropwise over 10 minutes. The mixture is stirred at room temperature for 20 minutes. 1-Bromo-4-phenylbutane (1.6 g, 5.84 mmol) is added and the mixture is stirred at room temperature for 24 hours. The mixture is added to 5% HCl and is extracted with ether. The organic layer is washed with water and is dried over MgSO4. The solvent is removed in vacuo and the residue is chromatographed on silica gel (7:3 hexane:ethyl acetate) to afford methyl 2-[(3,4-dimethoxyphenyl)sulfonyl]-6-phenylhexanoate (1.3 g, 55%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.30-1.42 (m, 2H), 1.52-1.68 (m, 2H), 1.95-2.12 (m, 2H), 2.48-2.68 (m, 2H), 3.64 (s, 3H). 3.92 (d, 7H), 6.95 (d, 1H), 7.07-7.18 (m, 2H). 7.20-7.30 (m. 4H), 7.44 (d, 1H); MS (EI) m/e 406 (M+).

reactant | NaH | 5.84 mmol, 0.23 g | [H-].[Na+]
reactant | methyl (3,4-dimethoxyphenylsulfonyl)acetate | COC=1C=C(C=CC1OC)S(=O)(=O)CC(=O)OC | C11H14O6S
reactant | 1-Bromo-4-phenylbutane | 5.84 mmol, 1.6 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | HCl | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.84 mmol, 20 mL, 1.6 g | CN(C)C=O | C3H7NO
product | methyl 2-[(3,4-dimethoxyphenyl)sulfonyl]-6-phenylhexanoate | 1.3 g, 55% | COC=1C=C(C=CC1OC)S(=O)(=O)C(C(=O)OC)CCCCC1=CC=CC=C1 | C21H26O6S
